US05977105
b) (±)-1-(4'-Hydroxybiphenyl-4-yl)-5-(3-pyridyl)-3-pentanol
Prepared according to the method described in Example 7c) from 1-(4'-hydroxybiphenyl-4-yl)-5-(3-pyridyl)-3-pentanone (0.52 g) and sodium borohydride (0.062 g) in ethanol (10 ml) to give a yellow gum, which was purified by column chromatography over silica eluting with ethanol:ethyl acetate (1:9) to give the title compound as a yellow gum that solidified on standing (0.39 g).

reactant | 1-(4'-hydroxybiphenyl-4-yl)-5-(3-pyridyl)-3-pentanone | 0.52 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(CCC=1C=NC=CC1)=O | C22H21NO2
reactant | sodium borohydride | 0.062 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (±)-1-(4'-Hydroxybiphenyl-4-yl)-5-(3-pyridyl)-3-pentanol | OC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(CCC=1C=NC=CC1)O | C22H23NO2
